US06437147B1
4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid 4-methanesulfonylbenzylamide
At 0° C. 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.23 g, 1.184 mmol) was added to a solution of 4,5,6,7-tetrahydro-1H-benzimidazole-5-carboxylic acid (024 g, 1.184 mmol) and 1-hydroxybenzotriazole (0.16 g, 1.184 mmol) in DMF (5 ml). The reaction mixture was stirred for 20 min at 0° C. 4-(Methylsulfonyl)benzylamine (0.26 g, 1.184 mmol) and ethyldiisopropylamine (0.90 ml, 5.211 mmol) were added successively. The reaction mixture was stirred for 16 hours, while it was warming up to room temperature. The solvent was removed in vacuo. The crude product was purified filtered through SepPack® (5 g), using 1% TFA in water/acetonitrile (80:40) as eluent. The resulting mixture was purified by flash chromatography on silica (40 g), using DCM/methanol/25% aqueous ammonia (50:10:1) as eluent, to give 0.32 g of the title compound.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.184 mmol, 0.23 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 4,5,6,7-tetrahydro-1H-benzimidazole-5-carboxylic acid | 1.184 mmol | N1C=NC2=C1CCC(C2)C(=O)O | C8H10N2O2
reactant | 1-hydroxybenzotriazole | 1.184 mmol, 0.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-(Methylsulfonyl)benzylamine | 1.184 mmol, 0.26 g | CS(=O)(=O)C1=CC=C(CN)C=C1 | C8H11NO2S
reactant | ethyldiisopropylamine | 5.211 mmol, 0.90 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid 4-methanesulfonylbenzylamide | 0.32 g | CS(=O)(=O)C1=CC=C(CNC(=O)C2CC3=C(NC=N3)CC2)C=C1 | C16H19N3O3S
